US04948794
1-(5-Tetrazolyl)methylquinoxaline-2,3(1H,4H)-dione (Compound 32)
To a solution of 1-cyanomethylquinoxaline-2,3(1H,4H)-dione (0.60 g, 3.0 mmol) in 10 ml of N,N-dimethylformamide was added ammonium chloride (0.18 g, 3.4 mmol) and sodium azide (0.22 g, 3.4 mmol), and the mixture was stirred on an oil bath at 100° C. for 4 h. The mixture was cooled to room temperature and 25 ml of 1M hydrochloric acid was added. The precipitated solid was isolated by filtration and washed with water, ethanol and ether to give 0.71 g (97%) of the title compound. M.p. 320.4° C. (DSC); IR (KBr): 1700, 1650, 1600 cm-1 ; 1H-NMR (DMSO-d6): 5.62 (s, 2H, CH2), 7.08 (s, 4H, ArH), 12.2 (broad s, 1H, NH; only one exchangeable proton could be seen); MS (m/z): 244 (M+, 49%).

reactant | 1-cyanomethylquinoxaline-2,3(1H,4H)-dione | 3.0 mmol, 0.60 g | C(#N)CN1C(C(NC2=CC=CC=C12)=O)=O | C10H7N3O2
reactant | ammonium chloride | 3.4 mmol, 0.18 g | [Cl-].[NH4+]
reactant | sodium azide | 3.4 mmol, 0.22 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 1M, 25 ml | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(5-Tetrazolyl)methylquinoxaline-2,3(1H,4H)-dione | 0.71 g, 97% | N1N=NN=C1CN1C(C(NC2=CC=CC=C12)=O)=O | C10H8N6O2
